US05168103
2-[2-[(2-Amino-3,4-dioxo-1-cyclobuten-1-yl)amino]ethyl]-1,2,4-oxadiazolidine-3,5-dione
A solution of 3-amino-4-ethoxy-3-cyclobutene-1,2-dione (0.56 g, 4.0 mmol) in ethanol (20 mL) was added to 2-(2-aminoethyl)-1,2,4-oxadiazolidine-3,5-dione hydrobromide (0.90 g, 4.0 mmol) in ethanol (100 mL). The reaction mixture was treated with 1N sodium hydroxide solution (8 mL, 8 mmol) and allowed to stir for 24 hours at room temperature. The resulting precipitate was filtered, dissolved in water and passed through an ion exchange column (AG 50W-X2, 100-200 mesh, H+ form), eluting with water. The eluent was freeze dried yielding the title compound as a cream colored solid, partial hydrate (0.45 g, 45%, mp 225° C. (dec)); IR (KBr, cm-1) 3300, 3140, 1820, 1740, 1720, 1640; MS (+FAB) 241 (MH+); 1H NMR (DMSO, 400 MHz): δ12.4 (br s, NH), 7.5 (br s, 3 NH), 4.0-3.5 (m, 4H); 13C NMR (DMSO, 400 MHz): ppm 183.72, 183.63, 170.06, 168.96, 158.17, 152.72, 50.41, 41.68.

reactant | 3-amino-4-ethoxy-3-cyclobutene-1,2-dione | 4.0 mmol, 0.56 g | NC=1C(C(C1OCC)=O)=O | C6H7NO3
reactant | 2-(2-aminoethyl)-1,2,4-oxadiazolidine-3,5-dione hydrobromide | 4.0 mmol, 0.90 g | Br.NCCN1OC(NC1=O)=O
reactant | sodium hydroxide | 8 mmol, 1N, 8 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 2-[2-[(2-Amino-3,4-dioxo-1-cyclobuten-1-yl)amino]ethyl]-1,2,4-oxadiazolidine-3,5-dione | NC1=C(C(C1=O)=O)NCCN1OC(NC1=O)=O | C8H8N4O5
